US07342030B2
5-trifluoromethoxy-1H-indole-2-carboxylic acid amide (4.5 g, 18.43 mmol) and dichloro acetone (3.5 g, 27.63 mmol) in toluene/DMF (5:1, 30 ml) were kept at reflux temperature for 24 h with continuous removal of water by applying a Dean-Stark trap (a water separator used in chemical reactions). After removal of solvents in vacuo, the residue was intensively shaken with water, the precipitate was isolated by filtration and washed with water and brine. After evaporation of the solvents in vacuo chromatography on silica gel (iso-hexanes/ethyl acetate 3:1) yielded 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole as off white solid. Yield 2.6 g (44%)

reactant | 5-trifluoromethoxy-1H-indole-2-carboxylic acid amide | 18.43 mmol, 4.5 g | FC(OC=1C=C2C=C(NC2=CC1)C(=O)N)(F)F | C10H7F3N2O2
reactant | dichloro acetone | 27.63 mmol, 3.5 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene DMF | 30 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole | ClCC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C13H8ClF3N2O2
